US08981085B2
Tin (II) chloride (10 g, 54 mmol) was slowly added to 5-bromo-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine (9.0 g, 35 mmol) in 6N HCl (200 mL) at a temperature of about 0° C. to about 5° C., and the reaction was stirred at room temperature for 2 hours. The reaction pH was raised to 7 by addition of 6N NaOH. The aqueous layer was then extracted with CHCl3/i-PrOH (3:1). The combined organic phases were dried (MgSO4) and concentrated in vacuo to yield 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (5.1 g, 64% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.18 (br s, 1H), 8.13 (d, 1H), 6.66 (d, 1H), 4.21 (s, 2H); LCMS (APCI+) m/z 229.9, 231.9 (M+H)+, Retention time=2.11 minutes (Method 1).

reactant | Tin (II) chloride | 54 mmol, 10 g | [Sn](Cl)Cl
reactant | 5-bromo-4-fluoro-3-nitro-1H-pyrrolo[2,3-b]pyridine | 35 mmol, 9.0 g | BrC=1C(=C2C(=NC1)NC=C2[N+](=O)[O-])F | C7H3BrFN3O2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | HCl | 6N, 200 mL | Cl | ClH
product | 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 5.1 g, 64% yield | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
